* C:\Users\zeron\OneDrive\바탕 화면\Ashley\vestibular\Vestibular-push-pull-circuit\circuit_ver2.asc
* Generated by LTspice 26.0.2 for Windows.
C_mem_L MEM_L 0 1n
S_lat_L MEM_L SNS_L MEM_L 0 STLSW
B_spk_L1 SPIKE_L 0 V=0.5*(1+tanh(400*(V(SNS_L)-0.02)))
V_IN IN 0 SINE(0 0.2 1)
C_mem_R MEM_R 0 1n
B_spk_R2 SPIKE_R 0 V=0.5*(1+tanh(400*(V(SNS_R)-0.02)))
R_int_L V_INT_L SPIKE_L 100k
R_int_R V_INT_R SPIKE_R 100k
C_int_L V_INT_L 0 1µ
C_int_R V_INT_R 0 1µ
B_diff VOR_OUT 0 V=V(V_INT_L)-V(V_INT_R)
B_in_L 0 MEM_L I=400n+1u*V(IN)-5u*V(SPIKE_R)
B_in_R 0 MEM_R I=400n-1u*V(IN)-5u*V(SPIKE_L)
R_sns_L SNS_L 0 1k
R_sns_R SNS_R 0 1k
S_lat_R1 MEM_R SNS_R MEM_R 0 STLSW
R_leak_L MEM_L 0 12Meg
R_leak_L1 MEM_R 0 12Meg
.model STLSW SW(Ron=50k Roff=1G Vt={(V_LU+V_H)/2} Vh={(V_LU-V_H)/2})
.tran 0 3 0 10u
.ic V(MEM_L)=0 V(MEM_R)=0
.options gminsteps=0 reltol=1e-4
.step param V_LU 4 6 0.5
.param V_H = 1
.backanno
.end
