* C:\Users\zeron\OneDrive\바탕 화면\Ashley\vestibular\Vestibular-push-pull-circuit\circuit_ver1_0814.asc
* Generated by LTspice 26.0.2 for Windows.
B_src_L GL_SRC 0 V=0.5+V(IN)
R_gL GL_SRC GATE_L 100k
C_gL GATE_L 0 200n
R_load_L VDD DRAIN_L 1k
S_lat_L DRAIN_L 0 GATE_L 0 STLSW
S_ahp_L GATE_L 0 SPIKE_L 0 INHSW
S_com_L GATE_L 0 SPIKE_R 0 INHSW
B_spk_L1 SPIKE_L 0 V=0.9*(1-tanh(20*(V(DRAIN_L)-1.1)))
V_IN IN 0 SINE(0 0.2 1)
VDD VDD 0 1.8
B_src_R1 GR_SRC 0 V=0.5-V(IN)
R_gR1 GR_SRC GATE_R 100k
C_gR1 GATE_R 0 200n
R_load_R1 VDD DRAIN_R 1k
S_lat_R1 DRAIN_R 0 GATE_R 0 STLSW
S_ahp_R1 GATE_R 0 SPIKE_R 0 INHSW
S_com_R1 GATE_R 0 SPIKE_L 0 INHSW
B_spk_R2 SPIKE_R 0 V=0.9*(1-tanh(20*(V(DRAIN_R)-1.1)))
R1 V_INT_L SPIKE_L 10k
R2 V_INT_R SPIKE_R 10k
C1 V_INT_L NC_01 22
C2 V_INT_R NC_02 22
B_diff VOR_OUT 0 V=V(V_INT_L)-V(V_INT_R)
.model STLSW SW(Ron=500 Roff=50k Vt=0.40 Vh=0.05)
.model INHSW SW(Ron=10k Roff=1G Vt=0.9 Vh=0.2)
.tran 0 3 0 10u
.ic V(GATE_L)=0 V(SPIKE_L)=0 V(GATE_R)=0 V(SPIKE_R)=0
.backanno
.end
